US06984734B2
Ethyl 4-hexanoyl-2-pyrrolecarboxylate.
Starting with 2.0 g of ethyl pyrrole carboxylate (14 mmol) and 4.5 ml (30 mmol) of hexanoylchloride and following a procedure analogous to the one described above, 2.71 g (80% yield) of the desired product is obtained. 1H NMR (δ ppm, CDCl3): 10.70 (s, br, 1H, NH); 7.57 (dd, J=1.61, 3.35 Hz, 1H, α-pyrrolic); 7.29 (dd, J=1.61, 2.48, 1H ; β-pyrrolic); 4.32 (q, 2H, J=7.12 Hz, CO2Et); 2.74 (t, 2H, J=7.54, α-CO CH2); 1.68 (m, 2H, β-CO CH2); 1.34 (t, 3H, J=7.12, CO2Et); 1.31 (m, 4H, γ,δ-CO CH2); 0.87 (m, 3H, CH3). 13C NMR (CDCl3): 196.57; 161.32; 126.74; 126.65; 123.93; 114.91; 60.87; 39.60; 31.44; 24.28; 22.35; 14.17; 13.77. Exact mass calculated for C13H20NO3 (M+H)=238.144319, found=238.143749.

reactant | ethyl pyrrole carboxylate | 14 mmol, 2.0 g | N1C(=CC=C1)C(=O)OCC | C7H9NO2
reactant | hexanoylchloride | 30 mmol, 4.5 ml | C(CCCCC)(=O)Cl | C6H11ClO
product | Ethyl 4-hexanoyl-2-pyrrolecarboxylate | 2.71 g, 80% yield | C(CCCCC)(=O)C=1C=C(NC1)C(=O)OCC | C13H19NO3
